US04824951
2-(3-Chlorophenyl)-N,N-dimethyl-3H-imidazo[4,5-b]pyridine-3-acetamide hydrate [1:0.5]
Under nitrogen bubbling, a mixture of 2-(3-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3acetic acid (4.0 g, 0.0138 mole) and 1,1'-carbonyldiimidazole (2.24 g, 0.0138 mole) in 150 ml of tetrahydrofuran was stirred at room temperature for 4 hrs. A solution of dimethylamine in tetrahydrofuran (42 ml of 0.5M solution) was added, and the reaction mixture was allowed to stir at room temperature for 1/2 hr.

reactant | 2-(3-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3acetic acid | 0.0138 mole, 4.0 g | ClC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.0138 mole, 2.24 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dimethylamine | CNC | C2H7N
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5M, 42 ml | O1CCCC1 | C4H8O
product | 2-(3-Chlorophenyl)-N,N-dimethyl-3H-imidazo[4,5-b]pyridine-3-acetamide hydrate | O.ClC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1CC(=O)N(C)C | InChI=1S/C16H15ClN4O.H2O/c1-20(2)14(22)10-21-15(11-5-3-6-12(17)9-11)19-13-7-4-8-18-16(13)21;/h3-9H,10H2,1-2H3;1H2
